US04113734
Equimolar mixtures of (p-chlorophenyl)-sulphonyl isocyanate and n-butylazide were dissolved at room temperature in toluene with a molar concentration of 0.6. 1-(p-chlorophenylsulphonyl)-4-n-butyl-2-tetrazolin-5-one was obtained, which was a white powder or a clear crystalline precipitate, according to whether the precipitation occurred fast or slow. The product had a melting range of 76.5°-77.5° C. The following results were obtained by elementary analysis:

reactant | (p-chlorophenyl)-sulphonyl isocyanate | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | n-butylazide | C(CCC)N=[N+]=[N-] | C4H9N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(p-chlorophenylsulphonyl)-4-n-butyl-2-tetrazolin-5-one | ClC1=CC=C(C=C1)S(=O)(=O)N1N=NN(C1=O)CCCC | C11H13ClN4O3S
